US07704995B2
A mixture of 3-amino-6-bromopyrazine-2-ethylcarboxamide (5.0 g, 20.4 mmol), [1,1′bis-(diphenylphosphino)ferrocene]dichloropalladium(II)-dichloromethane complex (0.93 g, 2.04 mmol), 3-carbomethoxyphenylboronic acid (4.4 g, 24.4 mmol) in DMF (30 mL) was de-gassed with nitrogen. Triethylamine (5.7 mL, 40.1 mmol) was then added and the resulting mixture was heated at 85° for 2.5 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (200 mL), filtered over silica gel, washed with saturated sodium bicarbonate solution (150 mL), dried over sodium sulfate, filtered, and concentrated. The oily residue was purified by flash chromatography (silica gel, eluted with ethyl acetate-hexanes gradient from 15% to 80% yield) to give methyl 3-{5-amino-6-[(ethylamino)carbonyl]pyrazin-2-yl}benzoate (4.3 g, 70% yield): 1H NMR (400 MHz, CDCl3): 8.66 (s, 1H), 8.53-8.52 (t, 1H), 8.08-8.06 (m, 2H), 8.00 (b, 1H), 3.5 (t, 1H), 3.97 (s, 3H), 2.91-2.88 (m, 1H), 0.94-0.85 (m, 2H), 0.72-0.62 (m, 2H); MS (EI) for C15H16N4O3: 301 (MH+).

reactant | 3-amino-6-bromopyrazine 2-ethylcarboxamide | 20.4 mmol, 5.0 g | NC=1C=NC(=CN1)Br.CCC(=O)N
reactant | 3-carbomethoxyphenylboronic acid | 24.4 mmol, 4.4 g | C(=O)(OC)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | Triethylamine | 40.1 mmol, 5.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | methyl 3-{5-amino-6-[(ethylamino)carbonyl]pyrazin-2-yl}benzoate | 4.3 g, 70% yield | NC=1N=CC(=NC1C(=O)NCC)C=1C=C(C(=O)OC)C=CC1 | C15H16N4O3
